US06982260B1
(8-Isopropyl-7-methoxy-quinazolin-2-yl)-phenyl-amine
A mixture of 2-chloro-7-methoxy-8-(2-propyl)quinazoline (100 mg, 0.42 mmol) and aniline (120 mg, 1.29 mmol) in acetonitrile (3 mL), was heated at 80° C. for 18 hours in a sealed tube. The solvent was removed under reduced pressure, to the residue 5% sodium carbonate solution was added. The product was extracted with ethyl acetate (3×25 mL). The combined organic extract was washed with brine, dried (Na2SO4), and concentrated. The product was purified on a column of silica gel to give the title compound as an off-white solid (95 mg, 76.3%), mp 172–173° C.; 1H NMR (CDCl3): δ 1.46 (d, 6H, 2×CH3), 3.97 (s, 3H, OCH3), 4.33 (m, 1H, CH), 7.0–7.1 (m, 2H, Ar-H), 7.38 (t, 2H, Ar-H, 7.58 (d, 1H, Ar-H), 7.85 m, 2H, Ar-H), 8.93 (s, 1H, Ar-H); MS m/z C18H19N3O 294.21 (M++1); Analysis: Calcd.; C, 73.7; H, 6.53; N, 14.32. Found: C, 73.8; H, 6.83; N, 14.59.

reactant | 2-chloro-7-methoxy-8-(2-propyl)quinazoline | 0.42 mmol, 100 mg | ClC1=NC2=C(C(=CC=C2C=N1)OC)C(C)C | C12H13ClN2O
reactant | aniline | 1.29 mmol, 120 mg | NC1=CC=CC=C1 | C6H7N
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
product | (8-Isopropyl-7-methoxy-quinazolin-2-yl)-phenyl-amine | 95 mg, 76.3% | C(C)(C)C=1C(=CC=C2C=NC(=NC12)NC1=CC=CC=C1)OC | C18H19N3O
